US07897595B2
TFAA (2.5 ml) and Et3N (20 ml) was added to a solution of 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (426 mg, 1.66 mmol) in DCM (60 ml). The mixture was stirred for 1 h at ambient temperature, concentrated in vacuo and parted between NaHCO3 and EtOAc. The organic phase was dried, concentrated and purified by column chromatography to yield 629 mg (93%) of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. MS (ESI) m/z 353.2/355.1. A mixture of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (629 mg, 1.78 mmol), DMF (1 ml) and POCl3 (10 ml) was heated at 100° C. for 13 h. The reaction mixture was concentrated in vacuo and purified by column chromatography rendering 185 mg (28%) of 3-bromo-2-chloro-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.72 (s, 1H), 4.30-3.05 (m, 7H), 1.38 (d, 1.2H), 1.35 (d, 1.8H). A mixture of 3-bromo-2-chloro-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (79.0 mg, 213 μmol), N2H4H2O (91.0 μl, 1.47 mmol) and EtOH (30 ml) was stirred for 16 h at room temperature. The reaction mixture was parted between EtOAc and sat. aq. NaHCO3. The organic phase was dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 45.0 mg (76%) of 3-bromo-2-chloro-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.64 (s, 1H), 3.16 (m, 2H), 3.05 (m, 3H), 2.92 (m, 1H), 2.72 (dd, 1H), 1.33 (d, 3H) ppm.

reactant | TFAA | 2.5 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Et3N | 20 ml | CCN(CC)CC | C6H15N
reactant | 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 1.66 mmol, 426 mg | BrC1=CC2=C(CCNCC2C)N=C1O | C10H13BrN2O
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 629 mg, 93% | BrC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1O | C12H12BrF3N2O2
